US07687469B2
(3-Bromo-4-methoxy-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}-methanol
14.8 mL of a 1.6 M solution of n-butyllithium in hexane are added dropwise under argon to a solution of 8.0 g 1-bromo-4-triisopropylsilylethynyl-benzene in 80 mL dry tetrahydrofuran chilled to −78° C. The solution is stirred for 1 h at −70° C. Then 5.1 g 3-bromo-4-methoxy-benzaldehyde dissolved in 20 mL tetrahydrofuran are added dropwise over 15 min. The resulting solution is left in the cooling bath to warm to ambient temperature overnight. Then water is added and the mixture is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is removed. The residue is purified over silica gel (cyclohexane/ethyl acetate 9:1->1:1).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-triisopropylsilylethynyl-benzene | 8.0 g | BrC1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C17H25BrSi
reactant | 3-bromo-4-methoxy-benzaldehyde | 5.1 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (3-Bromo-4-methoxy-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}-methanol | BrC=1C=C(C=CC1OC)C(O)C1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C25H33BrO2Si
